US08624037B2
10.1) 5,5-dimethyl-3-(3-methyl-4-nitrophenyl)imidazolidine-2,4-dione
A mixture of 5-fluoro-2-nitrotoluene (1.55 g, 10 mmoles), 5,5-dimethylhydantoin (1.28 g, 10 mmoles), K2CO3 (1.38 g, 10 mmoles) in DMF (15 ml) is introduced into a tube to be placed in a microwave oven and irradiated at 100° C. for 70 minutes, under magnetic stirring. The reaction mixture is then poured into water (200 ml) and extracted with AcOEt (2×75 ml). The organic phases are combined, washed with salt water, dried over Na2SO4 and filtered. The filtrate is concentrated under reduced pressure and the residue is purified by chromatography on a silica column (eluent: Heptane/AcOEt: 7/3). The expected compound is obtained in the form of a white solid with a yield of 25% (666 mg). Melting point: 177-178° C.

reactant | 5-fluoro-2-nitrotoluene | 10 mmoles, 1.55 g | FC=1C=CC(=C(C1)C)[N+](=O)[O-] | C7H6FNO2
reactant | 5,5-dimethylhydantoin | 10 mmoles, 1.28 g | CC1(C(NC(N1)=O)=O)C | C5H8N2O2
reactant | K2CO3 | 10 mmoles, 1.38 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 200 ml | O | H2O
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 5,5-dimethyl-3-(3-methyl-4-nitrophenyl)imidazolidine-2,4-dione | yield of 25% | CC1(C(N(C(N1)=O)C1=CC(=C(C=C1)[N+](=O)[O-])C)=O)C | C12H13N3O4
